US04851519
A solution of 7.3 g of trans-3'-O-acetyl-2',5'-dideoxy-5'-(ethoxycarbonylmethylene)-5-ethyluridine in 150 ml of ethanol was hydrogenated over 0.5 g of 10% palladium-on-carbon catalyst for 6 hours. The catalyst was removed by filtration and the filtrate was evaporated to dryness. The residue was recrystallized from ethanol to give 5.8 g of 3'-O-acetyl-2',5'-dideoxy-5'-(ethoxycarbonylmethyl)-5-ethyluridine in the form of a white solid of melting point 137°-138° C.

reactant | trans-3'-O-acetyl-2',5'-dideoxy-5'-(ethoxycarbonylmethylene)-5-ethyluridine | 7.3 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1/C=C/C(=O)OCC)N1C(=O)NC(=O)C(=C1)CC | C17H22N2O7
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 3'-O-acetyl-2',5'-dideoxy-5'-(ethoxycarbonylmethyl)-5-ethyluridine | 5.8 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CCC(=O)OCC)N1C(=O)NC(=O)C(=C1)CC | C17H24N2O7
